US06822100B2
A suspension of [2-(4,5-difluoro-2-nitro-phenyl)-vinyl]-dimethyl-amine (7.0 g, 30.7 mmol) and 10% palladium on charcoal (1.4 g) in methyl alcohol was hydrogenated in a Parr apparatus at 50 psi for 2 h and then filtered through Celite. The filtrate was concentrated in vacuo and the crude product purified by silica gel column chromatography (hexanes/ethyl acetate, 8:2) to afford 5,6-difluoroindole (1.28 g, 28%) as a yellow solid. 1H-NMR δ (400 MHz, CDCl3) 8.10 (1H, br s), 7.36 (1H, dd, J=10.7, 7.8 Hz), 7.22 (1H, t, J=2.8 Hz), 7.17 (1H, dd, J=7.4, 3.1 Hz), 6.50 (1H, m).

reactant | [2-(4,5-difluoro-2-nitro-phenyl)-vinyl]-dimethyl-amine | 30.7 mmol, 7.0 g | FC1=CC(=C(C=C1F)C=CN(C)C)[N+](=O)[O-] | C10H10F2N2O2
catalyst | palladium on charcoal | 1.4 g | [Pd] | Pd
solvent | methyl alcohol | CO | CH4O
product | 5,6-difluoroindole | 1.28 g, 28% | FC=1C=C2C=CNC2=CC1F | C8H5F2N
